US04442115
A solution of 3'-acetyl-1-benzyl-2'-hydroxy-1H-tetrazole-5-carboxanilide (2.6 g) in glacial acetic acid (100 ml) was hydrogenated at 52° C. and 4.1 kg/cm2 for 6 hours, using a catalyst of palladium on charcoal (5% w/w). The mixture was filtered and the filtrate was evaporated in vacuo to give a solid residue, which was recrystallised by dissolving in hot dimethylformamide (7 ml) and slowly adding a large volume of water (100 ml). The colourless solid which crystallised out was collected and discarded as an unwanted by-product. The mother liquor was evaporated under diminished pressure, and the resulting residue was recrystallised from a small volume of aqueous dimethylformamide to give 3'-ethyl-2'-hydroxytetrazole-5-carboxanilide (0.3 g) in the form of pale cream crystals, m.p. 185°-187° C.

reactant | 3'-acetyl-1-benzyl-2'-hydroxy-1H-tetrazole-5-carboxanilide | 2.6 g | C(C)(=O)C=1C(=C(NC(=O)C2=NN=NN2CC2=CC=CC=C2)C=CC1)O | C17H15N5O3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 3'-ethyl-2'-hydroxytetrazole-5-carboxanilide | 0.3 g | C(C)C=1C(=C(NC(=O)C2=NN=NN2)C=CC1)O | C10H11N5O2
